US03996217
0.3 g. of palladium/barium sulfate catalyst are added to a solution of 6 g. of DL-α-azido-3-thiopheneacetic acid in 40 ml. of ethanol and 40 ml. of 0.5N hydrochloric acid. Hydrogenation takes place at about 60 psig. after 2 hours. After filtration, the volume is concentrated to about 30 ml. When the pH is brought to 6.5 with ammonia, the amino acid separates as a white powder. After washing with ethanol/water and drying, 3.5 g. of the product, DL-α-amino-3-thiopheneacetic acid, are obtained; m.p. 283°-285°.

reactant | α-azido-3-thiopheneacetic acid | N(=[N+]=[N-])C(C(=O)O)C1=CSC=C1 | C6H5N3O2S
reactant | hydrochloric acid | 0.5N | Cl | ClH
catalyst | palladium/barium sulfate | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | α-amino-3-thiopheneacetic acid | NC(C(=O)O)C1=CSC=C1 | C6H7NO2S
